Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][O:7][H:8].[O:9][H:10]>>[H:1][C:2]=[C:3]([H:4])/[C:5](=[C:6]/[O:7][H:8])[O:9][H:10],-3.40317629848
[H:14].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])=[C:12][H:13]>>[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.977388724680001
[H:11].[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]#[C:9][H:10]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11],-2.38517018323
[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][O:7][H:8]>>[C:3]([H:4])#[C:5][C:6][O:7][H:8].[H:1][C:2],6.78856739596
[H:1][C:2]=[C:12]([H:13])[H:14].[H:3][C:5](=[C:4]=[C:10]([C:7]([H:8])[H:9])[H:11])[H:6]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-3.86753962065
[C:10]([H:11])([H:12])[H:13].[H:1][O:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9]>>[H:1][O:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.47109383568
[C:1]([C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17])([H:9])[H:10].[C:8]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-3.8512601745
[C:12]([H:13])([H:14])[H:15].[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])[H:11]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.89001275707
[O:1][C:2](=[C:3]=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:2](#[C:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11].[O:1],4.75281132
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8][H:9].[H:10],4.11164880372
[C:11]([H:12])([H:13])=[C:14]([H:15])[H:16].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],-1.11442083
[C:4]#[C:5][O:6][H:7].[O:1]=[C:2]([H:3])[C:8]([H:9])([H:10])[H:11]>>[O:1][C@:2]([H:3])([C:4]#[C:5][O:6][H:7])[C:8]([H:9])([H:10])[H:11],-1.69508885548
[C:3]([H:4])[H:5].[O:1]=[C:2]/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11]>>[O:1]=[C:2]([C:3]([H:4])[H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11],-5.27339314212
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][H:8]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7].[H:8],4.62891773324
[C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[H:11],-0.911333843541
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]=[C:3]([H:4])[H:5],1.2964593021700002
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7].[O:8][H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][O:8][H:9],-3.12068080213
[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-5.14355236882
[H:1][C:2]#[C:3][C:5](=[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.93839127093
[H:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13].[H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13],-3.79763718985
[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],4.49520456382
[H:1][C:2]=[C:3]([O:4][H:5])[C:6](=[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6](#[C:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][O:4][H:5],-0.90358222359
[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6](=[C:7]/[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6](=[C:7]=[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15],1.66130515907
[H:1][C:2]([H:3])[O:4]/[C:5](=[C:6](/[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],3.97965538587
[H:10].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16],-1.7957335559
[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[O:11][H:12],-10.57609988
[H:7].[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-2.83649302346
[H:1][C:2]1[O:3][C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])=[C:10]1[H:11]>>[H:1][C:2]([O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8][H:9])=[C:10][H:11],5.66539910454
[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8].[H:9],2.51651185251
